US07576217B2
1-(6-Bromo-2-methyl-4-phenyl-quinolin-3-yl)-2,2,2-trifluoro-ethanone
The title compound was prepared from (2-Amino-5-bromo-phenyl)-phenyl-methanone [example A16] and 1,1,1-trifluoro-2,4-pentanedione according to the procedure of example 1, except that heptane/ethyl acetate (10:1) was used. Yield: 50%; MS: m/z=392/394 (M).

reactant | (2-Amino-5-bromo-phenyl)-phenyl-methanone | NC1=C(C=C(C=C1)Br)C(=O)C1=CC=CC=C1 | C13H10BrNO
reactant | 1,1,1-trifluoro-2,4-pentanedione | FC(C(CC(C)=O)=O)(F)F | C5H5F3O2
solvent | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | 1-(6-Bromo-2-methyl-4-phenyl-quinolin-3-yl)-2,2,2-trifluoro-ethanone | Yield: 50% | BrC=1C=C2C(=C(C(=NC2=CC1)C)C(C(F)(F)F)=O)C1=CC=CC=C1 | C18H11BrF3NO
